US07230098B2
4-{6-Amino-5-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridin-3-yl)-benzoic acid was prepared using the same procedure as 4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-benzoic acid from 5-bromo-3-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridine-2-ylamine and 4-methoxycarbonylbenzeneboronic acid

reactant | 4-[6-amino-5-(2-chloro-3,6-difluoro-benzyloxy)-pyridin-3-yl]-benzoic acid | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C(=CC=C1F)F)Cl | C19H13ClF2N2O3
reactant | 5-bromo-3-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridine-2-ylamine | BrC=1C=C(C(=NC1)N)OC(C)C1=C(C=CC=C1Cl)Cl | C13H11BrCl2N2O
reactant | 4-methoxycarbonylbenzeneboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
product | 4-{6-Amino-5-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridin-3-yl)-benzoic acid | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OC(C)C1=C(C=CC=C1Cl)Cl | C20H16Cl2N2O3
